US06469020B2
2-(R)-(3,4-Dihydro-1H-benzo[4,5]thieno[2,3-c]pyridine-2-sulfonylmethyl)-3-methyl-butyric Acid
Hydrogen peroxide (30% aqueous, 0.15 ml) was added to a solution of 4(R)-benzyl-3-[2-(R)-(3,4-dihydro-1H-benzo[4,5]thieno[2,3-c]pyridine-2-sulfonylmethyl)-3-methyl-butanoyl]-oxazolidin-2-one (180 mg) in tetrahydrofuran (5 ml) at 0° C., followed by a solution of lithium hydroxide monohydrate (30 mg) in water (3 ml). The reaction was stirred for 16 h, allowing to warm slowly to room temperature. A solution of sodium sulfite (200 mg) in water (5 ml) was added then the mixture was evaporated under reduced pressure. The aqueous residue was washed with diethyl ether (20 ml), acidified with citric acid and extracted with ethyl acetate (2×30 ml). The combined extracts were washed with brine (30 ml), dried (MgSO4), filtered and evaporated under reduced pressure to give the title compound (110 mg) in crude form.

reactant | Hydrogen peroxide | 0.15 ml | OO | H2O2
reactant | 4(R)-benzyl-3-[2-(R)-(3,4-dihydro-1H-benzo[4,5]thieno[2,3-c]pyridine-2-sulfonylmethyl)-3-methyl-butanoyl]-oxazolidin-2-one | 180 mg | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](C(C)C)CS(=O)(=O)N1CC2=C(CC1)C1=C(S2)C=CC=C1)=O | C27H30N2O5S2
reactant | lithium hydroxide monohydrate | 30 mg | O.[OH-].[Li+]
reactant | sodium sulfite | 200 mg | S(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | 3 ml | O | H2O
solvent | water | 5 ml | O | H2O
product | 2-(R)-(3,4-Dihydro-1H-benzo[4,5]thieno[2,3-c]pyridine-2-sulfonylmethyl)-3-methyl-butyric Acid | 110 mg | C1N(CCC2=C1SC1=C2C=CC=C1)S(=O)(=O)C[C@@H](C(=O)O)C(C)C | C17H21NO4S2
